US07557244B2
f) 2-(5-Hydroxy-4′-trifluoromethyl-biphenyl-3-yl)-4-methyl-pentanoic acid methyl ester
10% Pd/C (Aldrich cat no 205699, 0.30 g) was added to a stirred solution of 2-(5-benzyloxy-4′-trifluoromethyl-biphenyl-3-yl)-4-methyl-pent-4-enoic acid methyl ester (2.71 g, 5.96 mmol) in MeOH (75 mL) at room temperature. Stirring was continued for 2 days under H2 (1 atm). Then the mixture was filtered through Celite, concentrated in vacuo to give the compound (1.83 g, 84%) as a yellow oil.

reactant | 2-(5-benzyloxy-4′-trifluoromethyl-biphenyl-3-yl)-4-methyl-pent-4-enoic acid methyl ester | 5.96 mmol, 2.71 g | COC(C(CC(=C)C)C=1C=C(C=C(C1)OCC1=CC=CC=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C27H25F3O3
solvent | MeOH | 75 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 2-(5-Hydroxy-4′-trifluoromethyl-biphenyl-3-yl)-4-methyl-pentanoic acid methyl ester | 1.83 g, 84% | COC(C(CC(C)C)C=1C=C(C=C(C1)O)C1=CC=C(C=C1)C(F)(F)F)=O | C20H21F3O3
